US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-serineamide Hydrochloride
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Fmoc-L-serineamide (1,430 mg, 2.07 mmols) were dissolved in 5 ml of chloroform and 2 ml of piperidine. The reaction was conducted for 1 hour, and the product was then purified using a silica-gel column (eluent, mixture of ethyl acetate and dichloromethane at a ratio by volume of 1:1). The thus-purified product was concentrated to dryness under reduced pressure, and then dissolved in 10 ml of a solution of 4-M hydrochloric acid and dioxane. The resulting mixture was reacted at 70 ° C. for 1 hour. One-hundred milliliters of diethyl ether were added thereto, and the resulting precipitate was collected by filtration. The thus-obtained powder was purified through medium-pressure liquid chromatography (ODS, mixture of water and acetonitrile at a ratio by volume of from 75:25), and was heat-dissolved in a mixture of chloroform and methanol at a ratio of 5:1 to produce 460 mg (0.992 mmols) of the final product in a yield of 48%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Fmoc-L-serineamide | 2.07 mmols, 1,430 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CO)C(=O)N
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | piperidine | 2 ml | N1CCCCC1 | C5H11N
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-serineamide Hydrochloride | 0.992 mmols, 460 mg, yield of 48% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.N[C@@H](CO)C(=O)N | InChI=1S/C19H20N2O4.C3H8N2O2.ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;4-2(1-6)3(5)7;/h5-10H,21H2,1-4H3;2,6H,1,4H2,(H2,5,7);1H/b14-7-;;/t;2-;/m.0./s1
